US04720352
Vanadium-iron 2-ethylhexanoate
A mixture of 18 grams (0.196 mole) of vanadium pentoxide, 51.1 grams (0.895 mole) of iron powder (97.8% iron), 348.2 grams (2.402 moles) of 2-ethylhexanoic acid (acid number 387), 30 grams of hexylene glycol (stabilizer), 25 grams of water and 60 grams of mineral spirits was agitated for 1 hour with an air sparge. The mixture was then heated to 70° C. and held for 11.5 hours. The reaction product was heated to 135° C. under vacuum to remove water, filtered and diluted with mineral spirits to 6.0% iron and 1.0% vanadium.

reactant | vanadium pentoxide | 0.196 mole, 18 grams | [O-2].[O-2].[O-2].[O-2].[O-2].[V+5].[V+5]
reactant | iron | 0.895 mole, 51.1 grams | [Fe] | Fe
reactant | 2-ethylhexanoic acid | 2.402 moles, 348.2 grams | C(C)C(C(=O)O)CCCC | C8H16O2
reactant | hexylene glycol | 30 grams | C(CCCCCO)O | C6H14O2
solvent | water | 25 grams | O | H2O
product | Vanadium-iron 2-ethylhexanoate | C(C)C(C(=O)[O-])CCCC.[Fe+2].[V+5].C(C)C(C(=O)[O-])CCCC.C(C)C(C(=O)[O-])CCCC.C(C)C(C(=O)[O-])CCCC.C(C)C(C(=O)[O-])CCCC.C(C)C(C(=O)[O-])CCCC.C(C)C(C(=O)[O-])CCCC | InChI=1S/7C8H16O2.Fe.V/c7*1-3-5-6-7(4-2)8(9)10;;/h7*7H,3-6H2,1-2H3,(H,9,10);;/q;;;;;;;+2;+5/p-7
